US04749790
(a) Cimetidine caffeate
A mixture of 1.26 g (0.5 cmole) cimetidine and 0.95 g (0.5 cmole) of caffeic acid (97%) were suspended in 12 ml of dichloromethane. The mixture was stirred for 2 hours at room temperature, followed by filtration and washing with dichloromethane. Dry weight: 2.17 g. Quantitative yield. M.p.: 126°-130° C. IR FIG. 1.

reactant | cimetidine | 0.5 cmole, 1.26 g | CC1=C(N=CN1)CSCC/N=C(\NC)/NC#N | C10H16N6S
reactant | caffeic acid | 0.5 cmole, 0.95 g | C(\C=C\C1=CC(O)=C(O)C=C1)(=O)O | C9H8O4
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | Cimetidine caffeate | Quantitative yield | CC1=C(N=CN1)CSCC/N=C(\NC)/NC#N.C(\C=C\C1=CC(O)=C(O)C=C1)(=O)[O-] | InChI=1S/C10H16N6S.C9H8O4/c1-8-9(16-7-15-8)5-17-4-3-13-10(12-2)14-6-11;10-7-3-1-6(5-8(7)11)2-4-9(12)13/h7H,3-5H2,1-2H3,(H,15,16)(H2,12,13,14);1-5,10-11H,(H,12,13)/p-1/b;4-2+
